### PR TITLE
feat: define `DifferentialForm.pullback`

### LINKED ISSUE #7: Define pullback
- [ ] Define $f^*\omega$ as
```lean
def DifferentialForm.pullback (f : E → F) (ω : Ω^k⟮F, G⟯) : Ω^k⟮E, G⟯ := fun x ↦
  (ω (f x)).compContinuousLinearMap (fderiv f x)
```
Prove basic properties:
- [ ] `pullback_zero`
- [ ] `pullback_add`
- [ ] `pullback_smul`
- [ ] define `pullbackCLM`?
- [ ] `pullback_sub`
- [ ] `pullback_neg`
- [ ] `pullback_constOfIsEmpty`
- [ ] `pullback_ofSubsingleton`

Should we define it for `ι = Fin k` only, or for any `ι`? Not sure.

### PR DESCRIPTION
**Pull request by MetalCreator666**
Fixes #7

No need for immediate action. 

Please have a quick glance if everything is in order. Especially for `ofSubSingleton` and `constOfIsEmpty`, as I am not sure if I have done the right thing there. 

Don't hesitate to give pointers, I am definitely still learning the ropes of working on this project.

I decided not to implement pullbackCLM yet and I have worked with Fin n instead of more general `ι`.

### CODE REVIEW

File: DeRhamCohomology/DifferentialForm.lean [hunk 1]
```diff
@@ -43,3 +99,34 @@ theorem ederiv_ederiv_apply (ω : Ω^n⟮E, F⟯) {x} (h : ContDiffAt ℝ 2 ω x
...
+
+theorem pullback_smul (f : E → F) (ω : Ω^k⟮F, G⟯) (c : ℝ) :
+  c • (pullback f ω) = pullback f (c • ω) :=
+    rfl
+
+theorem pullback_ofSubsingleton (f : E → F) (ω : F → F →L[ℝ] G) [Subsingleton (Fin k)] (i : Fin k) :
+  pullback f (ofSubsingleton i ω) = ofSubsingleton i (fun e ↦ (ω (f e)).comp (fderiv ℝ f e)) :=
+    rfl
+
+theorem pullback_constOfIsEmpty (f : E → F) [IsEmpty (Fin k)] (g : G) :
```
Comment (urkud) [inline DeRhamCohomology/DifferentialForm.lean:131]: `IsEmpty (Fin k)` is true only for `k = 0`, so I think that it's OK to state this for `k = 0` only.

File: DeRhamCohomology/DifferentialForm.lean [hunk 2]
```diff
@@ -43,3 +99,34 @@ theorem ederiv_ederiv_apply (ω : Ω^n⟮E, F⟯) {x} (h : ContDiffAt ℝ 2 ω x
...
+
+theorem pullback_neg (f : E → F) (ω : Ω^k⟮F, G⟯) :
+  - pullback f ω = pullback f (-ω) :=
+    rfl
+
+theorem pullback_smul (f : E → F) (ω : Ω^k⟮F, G⟯) (c : ℝ) :
+  c • (pullback f ω) = pullback f (c • ω) :=
+    rfl
+
+theorem pullback_ofSubsingleton (f : E → F) (ω : F → F →L[ℝ] G) [Subsingleton (Fin k)] (i : Fin k) :
```
Comment (urkud) [inline DeRhamCohomology/DifferentialForm.lean:127]: IMHO, it's OK to use `k = 1` and `i = 0` here.

File: DeRhamCohomology/DifferentialForm.lean [hunk 3]
```diff
@@ -43,3 +99,34 @@ theorem ederiv_ederiv_apply (ω : Ω^n⟮E, F⟯) {x} (h : ContDiffAt ℝ 2 ω x
...
 theorem ederiv_ederiv (ω : Ω^n⟮E, F⟯) (h : ContDiff ℝ 2 ω) : ederiv (ederiv ω) = 0 :=
   funext fun _ ↦ ederiv_ederiv_apply ω h.contDiffAt
+
+/- Pullback of a differential form -/
+def pullback (f : E → F) (ω : Ω^k⟮F, G⟯) : Ω^k⟮E, G⟯ :=
+  fun x ↦ (ω (f x)).compContinuousLinearMap (fderiv ℝ f x)
+
+theorem pullback_zero (f : E → F) :
+  pullback f (0 : Ω^k⟮F, G⟯) = 0 :=
+    rfl
```
Comment (urkud) [inline DeRhamCohomology/DifferentialForm.lean:109]: Please fix indentation to match Mathlib style: 4 spaces for statements, 2 spaces for proofs.

File: DeRhamCohomology/DifferentialForm.lean [hunk 4]
```diff
@@ -7,12 +7,68 @@ noncomputable section
...
+  [NormedAddCommGroup G] [NormedSpace ℝ G] {n k : ℕ}
 
 -- TODO: change notation
 notation "Ω^" n "⟮" E ", " F "⟯" => E → E [⋀^Fin n]→L[ℝ] F
 
+variable {v : E}
+variable (ω τ : Ω^n⟮E, F⟯)
+variable (f : E → F)
+
+instance : Add (Ω^n⟮E, F⟯) :=
```
Comment (urkud) [inline DeRhamCohomology/DifferentialForm.lean:21]: Since `Ω^n` is a `notation, Lean should be able to synth `Add` and other instances.
